US07767701B2
2-(5-Amino-2-chloro-phenylamino)-5-quinolin-6-ylmethylene-thiazol-4-one
A mixture of 2-(2-chloro-5-nitro-phenylamino)-5-quinolin-6-ylmethylene-thiazol4-one (100 mg, 0.42 mmol) and sodium sulfide nonahydrate (350 mg, 1-66 mmol) in 4 ml of EtOH was heated by microwave (SmithSynthesizer-Personal Chemistry) at 130 for 2 hours. The reaction mixture was cooled to room temperature and concentrated by vacuum distillation, then water was added and neutralized with aqueous ammonium chloride. Generated solid was collected by filtration and washed with water, followed by desiccation in vacuo to afford the title product (33 mg, 0.086 mmol). 1H NMR(DMSO-d6) δ 12.63 (s, 1H) 8.94 (m, 1H) 8.47 (d, 1H) 4.16 (s, 1H) 8.10 (d, 1H) 7.87 (dd, 1H) 7.84 (s, 1H) 7.56 (dd, 1H) 7.12 (d, 1H) 6.40 (d, 1H) 6.38 (s, 1H) 5.37 (s, 2H).:LC/MS: m/z 381 (M+1)

reactant | 2-(2-chloro-5-nitro-phenylamino)-5-quinolin-6-ylmethylene-thiazol4-one | 0.42 mmol, 100 mg | ClC1=C(C=C(C=C1)[N+](=O)[O-])NC=1SC(C(N1)=O)=CC=1C=C2C=CC=NC2=CC1 | C19H11ClN4O3S
reactant | sodium sulfide nonahydrate | 1-66 mmol, 350 mg | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
solvent | EtOH | 4 ml | CCO | C2H6O
product | 2-(5-Amino-2-chloro-phenylamino)-5-quinolin-6-ylmethylene-thiazol-4-one | 0.086 mmol, 33 mg | NC=1C=CC(=C(C1)NC=1SC(C(N1)=O)=CC=1C=C2C=CC=NC2=CC1)Cl | C19H13ClN4OS
